US07595319B2
3-Amino-6-[4-({[(1R)-2-methoxy-1-methylethyl]amino}sulfonyl)phenyl]-N-pyridin-3-ylpyrazine-2-carboxamide Hydrochloride
n-Butyllithium (1.3 mL, 2.1 mmol) was added dropwise over 30 min to a cooled (−78° C.) solution of 4-bromo-N-[(1R)-2-methoxy-1-methylethyl]benzenesulfonamide (0.125 g, 0.406 mmol) and triisopropyl borate (0.28 mL, 1.2 mmol) in anhydrous tetrahydrofuran (10 mL) under nitrogen atmosphere. The reaction mixture was stirred for 2 h at −78° C. HCl (aq, 3 M, 0.81 mL) was added to the reaction mixture and the mixture was allowed to warm to room temperature. Sodium carbonate (0.516 g, 4.9 mmol) was added followed by Pd(dppf)Cl2 (16 mg, 20 μmol) and 3-amino-6-bromo-N-pyridin-3-ylpyrazine-2-carboxamide (0.143 g, 0.487 mmol). Tetrahydrofuran (10 mL) was added and the mixture was heated to 65° C. for 15 h. The solvent was removed and purification by column chromatography using gradient methylene chloride to methylene chloride/methanol, (2:1), as the eluent gave a yellow solid. The solid was dissolved in methylene chloride (10 mL) and HCl in diethyl ether (1 M 2.5 ml) was added. A yellow precipitate was formed. Filtering and drying gave 73 mg (35% yield) of the title compound as yellow solid: 1H NMR (D2O, 400 Hz) δ 9.28 (s, 1H), 8.53 (s, 3H), 8.0 (m, 1H), 7.96 (d, J=8 Hz, 2H), 7.70 (d, J=8 Hz, 2H), 3.42 (m, 1H), 3.27 (m, 1H), 3.16 (s, 3H), 0.93 (d, J=7 Hz, 3H);

reactant | n-Butyllithium | 2.1 mmol, 1.3 mL | C(CCC)[Li]
reactant | 4-bromo-N-[(1R)-2-methoxy-1-methylethyl]benzenesulfonamide | 0.406 mmol, 0.125 g | BrC1=CC=C(C=C1)S(=O)(=O)N[C@@H](COC)C | C10H14BrNO3S
reactant | triisopropyl borate | 1.2 mmol, 0.28 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 3 M, 0.81 mL | Cl | ClH
reactant | Sodium carbonate | 4.9 mmol, 0.516 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-amino-6-bromo-N-pyridin-3-ylpyrazine-2-carboxamide | 0.487 mmol, 0.143 g | NC=1C(=NC(=CN1)Br)C(=O)NC=1C=NC=CC1 | C10H8BrN5O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 1 M, 2.5 ml | C(C)OCC | C4H10O
catalyst | Pd(dppf)Cl2 | 20 μmol, 16 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-Amino-6-[4-({[(1R)-2-methoxy-1-methylethyl]amino}sulfonyl)phenyl]-N-pyridin-3-ylpyrazine-2-carboxamide Hydrochloride | 73 mg, 35% yield | Cl.NC=1C(=NC(=CN1)C1=CC=C(C=C1)S(=O)(=O)N[C@@H](COC)C)C(=O)NC=1C=NC=CC1 | InChI=1S/C20H22N6O4S.ClH/c1-13(12-30-2)26-31(28,29)16-7-5-14(6-8-16)17-11-23-19(21)18(25-17)20(27)24-15-4-3-9-22-10-15;/h3-11,13,26H,12H2,1-2H3,(H2,21,23)(H,24,27);1H/t13-;/m1./s1
